US06407106B1
22 ml 1,4-dichloro-2-butine was added to a suspension of 43 g K2CO3 in 100 ml DMF at 20° C. under a protective gas atmosphere. The mixture was heated to 50° C. and then a solution of 50 g (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine in 200 ml DMF was added dropwise to this receiving solution. The resulting mixture was stirred for 5 hours at 50° C. Stirring was continued overnight at room temperature, undissolved precipitate was filtered out, and the precipitate was washed twice with 200 ml portions of ethyl acetate. The combined filtrates were evaporated to dryness in a vacuum, and the resulting oil was purified by column chromatography (silica gel; mobile solvent: n-hexane/ethyl acetate 60/40 to 30/70). The combined product fractions were again evaporated to dryness. 40.4 g of (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]2-(1H-indol-3-ylmethyl]-4-(4-chloro-2-butin-1-yl)piperazine was obtained as an amorphous yellowish solid, which was used for the next synthesis stage without further purification.

reactant | 1,4-dichloro-2-butine | 22 ml | ClCC#CCCl | C4H4Cl2
reactant | K2CO3 | 43 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 50 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]2-(1H-indol-3-ylmethyl]-4-(4-chloro-2-butin-1-yl)piperazine | 40.4 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCCl)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C26H22ClF6N3O
